US09120749B2
{6-Bromo-4-[4-(pyrrolidin-1-ylmethyl)phenylamino]quinolin-3-yl}(cyclopropyl)methanone
Following general procedure C, (6-bromo-4-chloroquinolin-3-yl)(cyclopropyl)methanone (320 mg, 1.03 mmol) was reacted 4-(pyrrolidin-1-ylmethyl)aniline (385 mg, 1.55 mmol) to afford the desired product (387 mg, 83%) as a yellow solid: ESI MS m/z 450 [C24H24BrN3O+H]+.

reactant | (6-bromo-4-chloroquinolin-3-yl)(cyclopropyl)methanone | 1.03 mmol, 320 mg | BrC=1C=C2C(=C(C=NC2=CC1)C(=O)C1CC1)Cl | C13H9BrClNO
reactant | 4-(pyrrolidin-1-ylmethyl)aniline | 1.55 mmol, 385 mg | N1(CCCC1)CC1=CC=C(N)C=C1 | C11H16N2
product | {6-Bromo-4-[4-(pyrrolidin-1-ylmethyl)phenylamino]quinolin-3-yl}(cyclopropyl)methanone | 387 mg, 83% | BrC=1C=C2C(=C(C=NC2=CC1)C(=O)C1CC1)NC1=CC=C(C=C1)CN1CCCC1 | C24H24BrN3O
